Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Flexeril
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, N/V
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of Crohn's with a history of partial  
colectomy and subsequent development of incisional hernia, s/p 
Rives Stoppa repair on ___ who presents with 2 days of 
abdominal pain and 1 day of nausea and emesis. The patient had 
an uncomplicated post-operative course and was discharged on 
POD#3. At home he was initially doing well, tolerating a diet 
and pain controlled. However, over the past two days he had 
worsening back and abdominal pain. He developed nausea and has 
had 3 episodes of emesis since lunch yesterday, NBNB. He had a 
bowel movement yesterday AM, but has not passed flatus or had a 
BM since that time. He has had intermittent belching and 
abdominal distension. 
 
Past Medical History:
Crohn's Disease, Incisional hernia; Partial colectomy (___), 
Club foot surgery, Back surgery
 
Social History:
___
Family History:
___ at ___) = COLON CANCER   
___ at ___) = CORONARY ARTERY DISEASE   
Brother(Living)
 
Physical Exam:
======================
ADMISSION PHYSICAL EXAM
======================
Vitals: T98.0 HR108 RR20 BP128/88 97%RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, distended, tender throughout, worst along incision,
+guarding
WOUND: incision clean and dry, steris intact, no erythema or
fullness 
Ext: No ___ edema, ___ warm and well perfused

======================
DISCHARGE PHYSICAL EXAM
======================

GEN: Well appearing, no acute distress
NEURO: A&Ox3, no focal neurologic deficits
HEENT: NCAT, EOMI, sclera anicteric
CV: HDS
PULM: No signs of respiratory distress. 
ABD: soft, mildily distended about entire abdomen, nontender;
midline incision c/d/I with no surrounding erythema or purulence
expressed
EXT: Warm, well-perfused

 
Pertinent Results:
=============
ADMISSION LABS
=============
___ 12:35PM BLOOD WBC-14.0* RBC-5.09 Hgb-13.4* Hct-42.0 
MCV-83 MCH-26.3 MCHC-31.9* RDW-14.4 RDWSD-42.5 Plt ___
___ 12:35PM BLOOD Neuts-89.7* Lymphs-4.1* Monos-5.2 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-12.55* AbsLymp-0.57* 
AbsMono-0.73 AbsEos-0.01* AbsBaso-0.02
___ 12:56PM BLOOD ___ PTT-31.1 ___
___ 12:35PM BLOOD Glucose-133* UreaN-15 Creat-1.0 Na-139 
K-4.4 Cl-97 HCO3-25 AnGap-17
___ 12:35PM BLOOD ALT-98* AST-99* AlkPhos-178* TotBili-0.6
___ 12:35PM BLOOD Albumin-3.6 Calcium-9.3 Phos-3.4 Mg-2.0
___ 12:35PM BLOOD Lactate-1.4

==============
DISCHARGE LABS
==============

___ 05:16AM BLOOD WBC-10.2* RBC-4.10* Hgb-10.9* Hct-34.3* 
MCV-84 MCH-26.6 MCHC-31.8* RDW-14.9 RDWSD-45.1 Plt ___
___ 04:13AM BLOOD WBC-9.0 RBC-4.04* Hgb-10.7* Hct-33.8* 
MCV-84 MCH-26.5 MCHC-31.7* RDW-14.9 RDWSD-46.4* Plt ___
___ 05:06AM BLOOD Glucose-246* UreaN-16 Creat-0.8 Na-137 
K-3.9 Cl-103 HCO3-23 AnGap-11
___ 05:06AM BLOOD Calcium-7.8* Phos-2.7 Mg-1.8
___ 05:41AM BLOOD ALT-41* AST-19 LD(LDH)-193 AlkPhos-153* 
TotBili-0.3

============
MICROBIOLOGY
============

=======
IMAGING
=======
CT Abdomen & Pelvis (___):
 
IMPRESSION: 
1. Dilated loops of small bowel up to 4 cm with a transition 
point in the 
right mid abdomen, compatible with high grade small bowel 
obstruction. 
2. There is a mild increase of phlegmonous change in the lower 
abdominal wall at the site of previous drain placement.  No 
drainable fluid collections. 
3. Abnormal mucosal hyperenhancement of the neoterminal ileum 
and cecum, 
suggestive of active Crohn's disease. 
4. Stable amount of free fluid in the pelvis. 
5. Cholelithiasis without evidence of acute cholecystitis. 

=====

Chest X-Ray (___):
Nasogastric tube is now positioned at the gastroesophageal 
junction.  
Recommend advancement into the stomach.  Right-sided PICC line 
is again seen terminating at the cavoatrial junction. 
  
Lung volumes are low.  Re-demonstration bibasilar platelike 
atelectasis.  No new focal consolidations to suggest pneumonia.  
Cardiomediastinal silhouette is stable.  No pleural effusion or 
pneumothorax.  No evidence of pulmonary vascular congestion or 
pulmonary edema. 
  
IMPRESSION:  
  
Nasogastric tube at the gastroesophageal junction, recommend 
advancement by at least 5 cm into the stomach. 
  
Otherwise, no significant overall change.  No acute 
cardiopulmonary process. 

=====

Chest X-Ray (___):
FINDINGS:  
Single semi upright portable AP view of the chest is provided. 
  
Nasogastric tube is now positioned at the gastroesophageal 
junction.  
Recommend advancement into the stomach.  Right-sided PICC line 
is again seen terminating at the cavoatrial junction. Lung 
volumes are low.  Re-demonstration bibasilar platelike 
atelectasis.  No new focal consolidations to suggest pneumonia.  
Cardiomediastinal silhouette is stable.  No pleural effusion or 
pneumothorax.  No evidence of pulmonary vascular congestion or 
pulmonary edema. 
  
IMPRESSION:  
Nasogastric tube at the gastroesophageal junction, recommend 
advancement by at least 5 cm into the stomach. 
  
Otherwise, no significant overall change.  No acute 
cardiopulmonary process. 

=====

Chest X-Ray (___):
1. The NG tube terminates in the stomach.
2. Dilated small bowel loops, compatible with small-bowel 
obstruction, better
seen on the prior CT.
3. Bibasilar atelectasis.

=====

CT Abdomen & Pelvis (___):
IMPRESSION:
1. Small-bowel obstruction with transition point in the mid 
abdomen just to
the right of midline (series 601, image 26). Associated small 
amount of
mesenteric free fluid.
2. Status post open abdominal surgery with likely associated 
subcutaneous
emphysema, fat stranding, and a subcutaneous drain within the 
anterior
abdominal wall.
3. Intraperitoneal free air, which may be secondary to recent 
surgery.
4. Extensive mesenteric fat stranding, which may be related to 
recent surgery,
however other infectious or inflammatory causes are difficult to 
exclude.
5. 2.9 cm intermediate density, triangular-shaped fluid 
collection within the
pelvis may represent a small hemoperitoneum. Clinical 
correlation is
recommended.
6. Cholelithiasis without evidence of a cholecystitis.
=====

Abdomen X-Ray (___):
IMPRESSION: 
Multiple dilated loops of small bowel with some air-fluid level 
seen. 
Differential diagnosis includes small bowel obstruction versus 
postoperative
ileus.  However, there is a relative paucity of bowel gas in the 
colon which
makes obstruction of more concern.

 
Brief Hospital Course:
Mr. ___ ___ male with a history of Crohn's with a history 
of partial colectomy and subsequent development of incisional 
hernia, s/p Rives Stoppa repair on ___ presented to the 
___ ED on ___ with 2 days of abdominal pain and 1 day of 
nausea and emesis. The patient had an uncomplicated 
post-operative course and was discharged on POD#3.

Upon evaluation, there was concern for a small bowel 
obstruction. CT imaging revealed signs of a potential 
mid-jejunal obstruction. He had an NG tube placed and was 
admitted for IVF and monitoring.

On ___, it was noted that his pain was increasing and not 
adequately controlled by the IV dilaudid. His NGT was advanced 
to the appropriate depth and he had up to 750 cc suctioned over 
the day with some relief of his discomfort.

On hospital day 5, a PICC line was placed by the IV team and 
nutrition consulted regarding TPN. He was started on TPN on 
___ and IVF was reduced to maintenance level. 

On hospital 6 and ___, he passed flatus and was having bowel 
movements. His JP drain was removed due to consistently low 
output as was the NG tube. His diet was advanced to sips. Early 
morning of hospital day 8, he vomited and NG tube was replaced 
with about 100 cc of output. He developed tachycardia to the 
120s, a fever of 101.4, and WBC count from 12 to 20.6. He was 
evaluated and it was determined that he should undergo a CT 
Abdomen/Pelvis with both IV and PO contrast to look for fluid 
collections, abscesses around the surgical site, or a 
re-obstruction of the intestines. The study revealed a high 
grade SBO with abnormal mucosal hyperenhancement of the 
neoterminal ileum and cecum, suggestive of active Crohn's 
disease; however, this finding was similar to a past study done 
in ___. Gastroenterology was consulted and recommended treating 
the SBO and an outpatient colonoscopy, for which he is due. For 
the time, no specialized treatment or further diagnostic testing 
would be useful over a colonoscopy when able. 

He was taken to the OR on hospital day 10 for exploratory 
laparotomy with lysis of adhesions. Post-operatively, he had his 
pain managed acutely via an epidural by the Acute Pain Service. 
It was removed on POD5 (hospital day 15) as well as the foley. 
He was transitioned to IV pain medication and had return of 
bowel function.

His diet was advanced as tolerated to a regular diet with 
continuous bowel function and pain controlled. His was 
discharged home on HOD ___ in stable condition. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide ___ mg oral Daily 
2. Docusate Sodium 100 mg PO BID 
3. Senna 8.6 mg PO BID:PRN Constipation - First Line 
4. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every 6 hours Disp 
#*10 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
4.  lisinopril-hydrochlorothiazide ___ mg oral Daily  
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 gr by 
mouth daily Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Obstipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, it was a pleasure taking care of you at ___.

You were admitted to the hospital due to a bowel obstruction, 
conservative management was attempted with nasogastric tube 
decompression, however, you ultimately required surgery.  You 
have recovered in the hospital and are now preparing for 
discharge to home with the following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

You should follow up with Dr. ___ at your scheduled appointment 
(listed below).
 
Followup Instructions:
___